US04075342
2-(3-Methoxyphenyl)-imidazo[1,2-a]quinoline
In a steel bomb having an internal glass coating, 9.34 g. of 1-(3-methoxyphenacyl)quinolinium bromide is heated at 130° C. for 24 hours together with 2.17 g. of hydroxylamine hydrochloride dissolved in 39 ml. of water. After cooling, the resulting solid precipitate is boiled with 60 ml. of water and recovered by filtration. The solid product is suspended in 50 ml. of water and concentrated ammonium hydroxide is added to the suspension. The mixture is extracted with dichloromethane and the organic extract is evaporated to dryness. By crystallization from methanol, 4.5 g. of the title product is obtained which melts at 129°-31° C.

reactant | 1-(3-methoxyphenacyl)quinolinium bromide | [Br-].COC=1C=C(C(C[N+]2=CC=CC3=CC=CC=C23)=O)C=CC1
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | water | O | H2O
product | 2-(3-Methoxyphenyl)-imidazo[1,2-a]quinoline | COC=1C=C(C=CC1)C=1N=C2N(C3=CC=CC=C3C=C2)C1 | C18H14N2O
